US04117127
N2 -(6,7-dimethyl-2-naphthylsulfonyl)-L-arginyl-N-butylglycine tert-butyl ester: To a stirred solution of 2.64 g of N-butylglycine tert-butyl ester in 20 ml of chloroform was carefully added N2 -(6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl chloride obtained above. The reaction mixture was allowed to stand at room temperature for one hour. At the end of this period, the reaction mixture was washed twice with 20 ml of saturated sodium chloride solution and evaporated to dryness. The residue was triturated with a small amount of water to give a crystalline material. This was collected by filtration and recrystallized from ethanol-ethyl ether to give 2.28 g (82 percent) of N2 -(6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-butylglycine tert-butyl ester, M.P. 164°-166° C, I.R. (KBr): 3,390, 3,165, 1,735, 1,370 cm-1.

reactant | N2 (6,7-dimethyl-2-naphthylsulfonyl)-L-arginyl-N-butylglycine tert-butyl ester | N#N.C(C)(C)(C)OC(CN(CCCC)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)C)C)CCCNC(N)=N)=O)=O
reactant | N-butylglycine tert-butyl ester | 2.64 g | C(C)(C)(C)OC(CNCCCC)=O | C10H21NO2
reactant | N2 (6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl chloride | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | N2 (6,7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-butylglycine tert-butyl ester | 2.28 g, 82 percent | N#N.C(C)(C)(C)OC(CN(CCCC)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCCNC(N)=N)=O)=O | InChI=1S/C28H43N5O7S.N2/c1-7-8-14-33(18-25(34)40-28(2,3)4)26(35)22(10-9-13-31-27(29)30)32-41(36,37)21-12-11-19-16-23(38-5)24(39-6)17-20(19)15-21;1-2/h11-12,15-17,22,32H,7-10,13-14,18H2,1-6H3,(H4,29,30,31);/t22-;/m0./s1
